US06417400B1
o-(p-Tolyl)benzonitrile
1 molar equivalent of o-(p-tolyl)-N-cyclohexylbenzaldimine is dissolved in a 1/1 mixture of tetrahydrofuran/water and X molar equivalents of aminohydroxysulphonic acid are added. This mixture is maintained at a temperature T for 1 hour, which gives a mixture of OTBO/OTBN. This mixture is diluted in tetrahydrofuran, 10 molar equivalents of phosphorus pentoxide are then added and the mixture is allowed to react for a further 1 hour at room temperature.

reactant | OTBN | CCCCCCCCCCCCCCCCCCSC1=C(SC(=C2SC3=C(S2)C=C(C=C3)C4=[N+](C(C(N4[O-])(C)C)(C)C)[O-])S1)SCCCCCCCCCCCCCCCCCC
reactant | phosphorus pentoxide | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
solvent | tetrahydrofuran water | O1CCCC1.O
solvent | aminohydroxysulphonic acid | NOS(=O)(=O)O | H3NO4S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | o-(p-Tolyl)benzonitrile | C1(=CC=C(C=C1)C1=C(C#N)C=CC=C1)C | C14H11N
